US05852016
Lithium aluminium hydride (1M solution in tetrahydrofuran, 4.45 ml, 4.45 mmol) was added dropwise to a stirred solution of ethyl 1-(triphenylmethyl)-pyrazole-4-carboxylate (2.27 g, 5.93 mmol) in anhydrous tetrahydrofuran (300 ml) under nitrogen at 0° C. After 1 h, the mixture was treated sequentially with water (3 ml), 15% aqueous sodium hydroxide (3 ml) and water (6 ml). The mixture was filtered through Arbocel filter aid, the filtrate was dried (MgSO4) and concentrated under reduced pressure, to give 4-hydroxymethyl-1-(triphenylmethyl) pyrazole (1.746g, 86%), as a white solid.

reactant | Lithium aluminium hydride | 4.45 mmol, 1M, 4.45 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-(triphenylmethyl)-pyrazole-4-carboxylate | 5.93 mmol, 2.27 g | C1(=CC=CC=C1)C(N1N=CC(=C1)C(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
reactant | water | 3 ml | O | H2O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-hydroxymethyl-1-(triphenylmethyl) pyrazole | 1.746g, 86% | OCC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
